US08461175B2
A 250 ml round-bottomed flask is charged with 4 g of a mixture of the regioisomers of 7-cyano-5-(2,6-difluorophenyl)pyrazolo[4,3-c]isoquinoline-1-sulphonic acid dimethylamide in 160 ml of DCM. After cooling to 0° C. using an ice bath, 108 ml of TFA are added and the mixture is stirred at RT for 6 h. The mixture is concentrated under RP and the solid obtained is taken up in 600 ml of water, and 50 ml of 0.75 M ammonia solution are added. The aqueous phase is extracted with 3 times 150 ml of AcOEt. The organic extracts are combined, washed with saturated NaCl solution and then dried over MgSO4. Concentration of the AcOEt under RP gives 2.6 g of 5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile (beige solid). MS (E/I): m/z=306 (M+); 1H NMR: 7.38 (t, J=8.0 Hz, 2H); 7.72 (m, 1H); 8.24 (broad s, 1H); 8.34 (dd, J=1.5 and 8.5 Hz, 1H); 8.59 (s, 1H); 8.70 (d, J=8.5 Hz, 1H); 14.5 (very broad m, 1H).

reactant | 7-cyano-5-(2,6-difluorophenyl)pyrazolo[4,3-c]isoquinoline-1-sulphonic acid dimethylamide | CN(S(=O)(=O)N1N=CC=2N=C(C=3C=C(C=CC3C21)C#N)C2=C(C=CC=C2F)F)C | C19H13F2N5O2S
reactant | TFA | 108 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ammonia | 0.75 M, 50 ml | N | H3N
solvent | DCM | 160 ml | C(Cl)Cl | CH2Cl2
solvent | water | 600 ml | O | H2O
product | 5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 2.6 g | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)NN=C2 | C17H8F2N4
